US08633175B2
Step 1: 2-Bromo-1,3-thiazole-4-carboxylic Acid
A mixture of methyl 2-bromo-1,3-thiazole-4-carboxylate (4.2 g, 18.9 mmol), THF (120 mL) and 1N lithium hydroxide (50 mL) was heated at 70° C. for 1 h. The organic solvent was removed in vacuo. The residual aqueous solution was cooled to 0-5° C. and acidified to pH1 with 1N HCl solution. The tile compound was obtained by filtration, as a white solid.

reactant | methyl 2-bromo-1,3-thiazole-4-carboxylate | 18.9 mmol, 4.2 g | BrC=1SC=C(N1)C(=O)OC | C5H4BrNO2S
reactant | lithium hydroxide | 1N, 50 mL | [OH-].[Li+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-Bromo-1,3-thiazole-4-carboxylic Acid | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
